# Qucs 0.0.21-dev  microstrip.vs

Pac:P3 _net0 _net1 Num="3" Z="50 Ohm" P="0 dBm" f="1 GHz" Temp="26.85"
Pac:P2 _net0 _net1 Num="2" Z="50 Ohm" P="0 dBm" f="1 GHz" Temp="26.85"
Pac:P1 _net0 _net1 Num="1" Z="50 Ohm" P="0 dBm" f="1 GHz" Temp="26.85"
C:C1 _net2 _net3 C="30 pF" V=""
MLIN:MS1 _net2 _net3 Subst="Aluminia" W="1 mm" L="10 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
MLIN:MS2 _net2 _net3 Subst="Aluminia" W="1 mm" L="10 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
SUBST:Aluminia er="9.8" h="1 mm" t="35 um" tand="1e-3" rho="0.022e-6" D="0.15e-6"
MTEE:MS4 _net2 _net3 _net1 Subst="Aluminia" W1="1 mm" W2="1 mm" W3="0.5 mm" MSModel="Hammerstad" MSDispModel="Kirschning" Temp="26.85"
MLIN:Stub _net2 _net3 Subst="Aluminia" W="0.5 mm" L="10 mm" Model="Hammerstad" DispModel="Kirschning" Temp="26.85"
